US07560551B2
Synthesis of 3-(3-Chloropropyl)-2-fluoro-4-iodopyridine
To a −78° C. solution of 2-fluoro-3-iodopyridine (186 mg, 834 μmol) in tetrahydrofuran (4171 μl, 834 μmol) was added a solution of 2M LDA (500 μl, 1.00 mol) in heptane/THF at −78° C. After 1 h at −78° C., 1-chloro-3-iodopropane (512 mg, 2.50 mmol) in 0.5 mL of THF was added to the anion solution slowly at −78° C. After 30 min at −78° C., the reaction was warmed to rt and stirred overnight. The reaction was diluted with DCM, washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by performing a column chromatography on silica gel using 95:05 Hex:EtOAc. Fractions containing the product were concentrated. 1H NMR showed product, 3-(3-chloropropyl)-2-fluoro-4-iodopyridine. Light yellow liquid/solid mixture was collected. MS Calcd for C8H8ClFIN: [M]+=299. Found: [M+H]+=300. HRMS Calcd for C8H8ClFIN: [M]+=298.9447. Found: [M+H]+=299.9752. mp=24-25° C.

reactant | 2-fluoro-3-iodopyridine | 834 μmol, 186 mg | FC1=NC=CC=C1I | C5H3FIN
reactant | LDA | 1.00 mol, 2M, 500 μl | [Li+].CC(C)[N-]C(C)C
reactant | 1-chloro-3-iodopropane | 2.50 mmol, 512 mg | ClCCCI | C3H6ClI
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | heptane THF | CCCCCCC.C1CCOC1
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 834 μmol, 4171 μl | O1CCCC1 | C4H8O
product | 3-(3-Chloropropyl)-2-fluoro-4-iodopyridine | ClCCCC=1C(=NC=CC1I)F | C8H8ClFIN
